US07250442B2
1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one
Evaporate 1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one (62 mg, 0.12 mmol) into a vial and add pyridine hydrochloride (300-500 mg). Suspend the vial, by means of a copper wire, in an oil bath heated to 180-200° C. so that the entire vial, except the cap, is immersed in the bath. When the pyridine hydrochloride melts, stir to effect a homogeneous solution. Heat for 1.5 h and then allow to cool. Treat the resulting solid with 1N HCl solution and ethyl acetate until all solids are dissolved and transferred to a separatory funnel. Extract the aqueous portion with ethyl acetate (2×). Combine the organic portions and wash with brine, then dry (MgSO4), filter and concentrate in vacuo to give a yellow gum. Purify by flash chromatography (gradient of 10% EtOAc/hexanes to 33% EtOAc/hexanes) followed by trituration in diethyl ether and drying under house vacuum to obtain 24 mg (40%) of the title compound as a pale yellow solid. MS (ES): m/z=499 (M+1), 497 (M−1); 1H NMR(DMSO-d6): δ8.43 (s, 1H), 8.24 (d, J=9 Hz, 2H), 7.57-7.43 (m, 4H), 7.37-7.23 (m, 3H), 7.15 (t, J=8 Hz, 1H), 7.01 (m, 2H), 6.76 (s, 2H), 5.11 (s, 2H), 2.12 (s, 6H).

reactant | 1-(2-chloro-benzyl)-3-(4-methoxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one | 0.12 mmol, 62 mg | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC=C(C=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)C)OC)C)=O)C=CC=C1 | C30H25ClN2O4
reactant | pyridine hydrochloride | 300-500 mg | Cl.N1=CC=CC=C1
reactant | HCl | 1N | Cl | ClH
catalyst | copper | [Cu] | Cu
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(2-Chloro-benzyl)-3-(4-hydroxy-3,5-dimethyl-phenyl)-3-(4-nitro-phenyl)-1,3-dihydro-indol-2-one | 24 mg, 40% | ClC1=C(CN2C(C(C3=CC=CC=C23)(C2=CC=C(C=C2)[N+](=O)[O-])C2=CC(=C(C(=C2)C)O)C)=O)C=CC=C1 | C29H23ClN2O4
